US06043366
8-Cyclodecyl-1-phenyl-3-pyridin-3-ylmethyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:2)
The title compound, white solid, m. p. 227° C. and MS: m/e=461.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 3-chloromethyl-pyridine.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 3-chloromethyl-pyridine | ClCC=1C=NC=CC1 | C6H6ClN
product | 8-Cyclodecyl-1-phenyl-3-pyridin-3-ylmethyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC=2C=NC=CC2)=O)CC1 | InChI=1S/C29H40N4O.ClH/c34-28-29(17-20-31(21-18-29)26-13-7-4-2-1-3-5-8-14-26)33(27-15-9-6-10-16-27)24-32(28)23-25-12-11-19-30-22-25;/h6,9-12,15-16,19,22,26H,1-5,7-8,13-14,17-18,20-21,23-24H2;1H
